Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Rash
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a healthy ___ female who presents with one 
day of n/v, dizziness and hypotension after taking bactrim for 1 
week for L big toe paronychia.  

She went to her school's health clinic a little over one week 
ago for an ingrown toenail on her L big toe which she has had 
for some time. Says she went there due to increased pain and 
redness in her toe. Her school health center placed her on 1 
week of bactrim, which she completed ___. She was 
feeling well until ___ when she had onset of nausea and 
dizziness,
both of which were worsened with standing. Denies vomiting, 
syncope, abdominal pain or headaches/vision changes. No urinary 
symptoms, fever or chills. Did not take anything for her nausea 
or dizziness. She presented back to her school health center 
yesterday for f/u of her toe, at which time she reported not
feeling well, her BP was taking and noted to be hypotensive to 
the ___.
 
Also noted to have a mild, diffuse rash on her extremities that 
started yesterday. She does not feel the rash has particularly 
worsened or improved since she first noticed it. It is not 
pruritic. She has not used anything on the rash.  She has never 
experienced any of these symptoms before. Subsequently sent to 
the ___ ED for further evaluation. 

In the ED:
- Initial vital signs were notable for:
Temp 97.6 °F (36.4 °C) Oral Pulse 86 RR 14 BP 106/64 O2 sat 100%
RA Pain 0

- Exam notable for: 
 Petechial rash mostly on the lower extremities, particular the
left lower extremity.

- Labs were notable for:
WBC 2.3, platelets 110, AST 49, ___ 13.3, INR 1.2, 

- Studies performed include:
CXR with no acute intrathoracic process.

- ECG - Sinus Rhythm 

- Patient was given: 1L IVF

- Consults:
HemOnc: Peripheral smear - consistent with exposure to bactrim.
There is no evidence for a primary bone marrow process
or hematologic malignancy.

Vitals on transfer: 
98.2 F, HR 83, BP 102/49, RR 16, O2 100% RA

Upon arrival to the floor, she reports feeling well with 
improvement in her nausea and dizziness since receiving fluids 
in the ED. No other complaints.

 
Past Medical History:
Seasonal Allergies
 
Social History:
___
Family History:
Mom - depression 
Sister - depression, anxiety
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VITALS: 98.6F, 98/62, HR 89, RR 18, 100%RA
GENERAL: Alert, interactive, appears quite comfortable and
energetic. In no acute distress. Appears much younger than 
stated
age. Petite stature 
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.
NECK: No cervical lymphadenopathy. 
CARDIAC: Regular rhythm and rate. S1 and S2 appreciated. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. 
SKIN: Warm. Petechial non-blanching rash noted primarily on LEs,
also mildly present on UEs. Rash is petechial appearing with few
pink/red 2mm macules, diffuse but primarily over LLE. 
NEUROLOGIC: Motor function grossly intact. Appropriately
conversant. No focal deficits noted. Gait is normal.
FOOT: Left great toe with dried blood present at the periphery 
of
the nailbed, otherwise no erythema or pus, nontender to 
palpation

DISCHARGE PHYSICAL EXAM
=======================
VITALS: ___ 0351 Temp: 98.2 PO BP: 95/52 HR: 73 RR: 18 O2
sat: 99% O2 delivery: Ra
GENERAL: Alert and oriented, no acute distress
ENT: NT/AC, PERRLA, EOMI
CV: RRR, no murmurs, rubs, or gallops
RESP: CTAB
GI: NT/ND, BS+
SKIN: Mild papular rash on the left leg, resolved compared to
prior images.
Neuro: CNII-XII grossly intact, no focal neurologic deficits
 
Pertinent Results:
ADMISSION LABS
==============
___ 12:47PM   WBC-2.3* RBC-4.38 HGB-12.0 HCT-36.5 MCV-83 
MCH-27.4 MCHC-32.9 RDW-13.0 RDWSD-39.2
___ 12:47PM   NEUTS-41 BANDS-3 ___ MONOS-5 EOS-12* 
BASOS-0 ___ MYELOS-0 AbsNeut-1.01* AbsLymp-0.90* 
AbsMono-0.12* AbsEos-0.28 AbsBaso-0.00*
___ 12:47PM   ALBUMIN-4.7
___ 12:47PM   ALT(SGPT)-27 AST(SGOT)-49* ALK PHOS-61 TOT 
BILI-0.2
___ 12:47PM   GLUCOSE-84 UREA N-12 CREAT-1.0 SODIUM-137 
POTASSIUM-4.0 CHLORIDE-99 TOTAL CO2-25 ANION GAP-13
___ 02:04PM   ___ PTT-28.7 ___

DISCHARGE LABS
==============
___ 01:00PM BLOOD WBC-2.4* RBC-3.99 Hgb-10.8* Hct-33.5* 
MCV-84 MCH-27.1 MCHC-32.2 RDW-12.9 RDWSD-39.7 Plt ___
___ 01:00PM BLOOD Neuts-16* Bands-9* Lymphs-62* Monos-5 
Eos-4 Baso-1 Atyps-3* ___ Myelos-0 AbsNeut-0.60* 
AbsLymp-1.56 AbsMono-0.12* AbsEos-0.10 AbsBaso-0.___ female who presents with one day of n/v, dizziness 
and hypotension after taking bactrim for 1 week for L big toe 
paronychia, being observed for rash and mild lab abnormalities. 
Her WBC and Plt counts remained low but stable for 24 hours, we 
discussed having her stay for one more day of monitoring, but 
she opted be discharged in the care of his mother with repeat 
CBC w/diff two days after discharge.

ACUTE ISSUES
============
#Rash
#Drug reaction 
#Mild transaminitis 
Most likely a mild drug reaction, given timing of symptom onset 
1 day after finishing bactrim, and mild symptomatology 
consistent with drug reaction/allergy. DRESS is a consideration 
given she has a rash and some mild lab abnormalities including 
eosinophilia (per below), however much less likely as her rash 
is mild and does not cover >50% of body surface, timing does not 
fit with DRESS (sx onset soon after taking bactrim, not ___ 
weeks which is more c/w DRESS), no fever, no lymphadenopathy, no 
atypical lymphocytes, and eosinophilia does not meet threshold 
for DRESS. Given this as well, very low concern for other more 
serious drug reactions such as SJS/TEN.

#Leukopenia
#Thrombocytopenia 
Mild lab abnormalities noted including WBC 2.3 and platelets 
110. Likely d/t 1-week course of bactrim, which is known to 
induce mild thrombocytopenia and leukopenia. Low concern for 
acute process given she is well-appearing and has mild 
symptomatology, and her peripheral smear was benign with no 
evidence for a primary bone marrow process or hematologic 
malignancy. She does not report ever being told of having a lab 
abnormality prior, or family history of bleeding diseases. ANC 
Values: ___: 1000, ___ AM: 580, ___: 600.

#Hypotension
Presented with nausea and dizziness, improved with IVF in the 
ED. Likely poor PO intake in the setting of nausea. BPs now 
improved to ___ to 100s systolic. Concern for infection leading 
to sepsis/hypotension low given current clinical status. Close 
to meeting HR criteria during orthostatic labs but no 
lightheadedness. Encouraged to increase po intake on discharge. 

#Left great toe paronychia
No signs of infection on exam currently and patient is 
asymptomatic. She has outpatient follow up with podiatry later 
this morning for possible procedure. 

CHRONIC ISSUES
==============
#Allergies
Continued home Zyrtec 10mg tablet 

TRANSITIONAL ISSUES
===================
Discharge WBC: 2.4
Discharge ANC: 0.60 
Discharge Hgb: 10.8
Discharge Plt: 110

[ ] Plan for repeat CBC w/diff on ___. Instructions 
to fax with us the labs to follow up on 
[ ] Patient with adverse reaction to trimethoprim and 
sulfamethoxazole, avoid administration of sulfa drugs in the 
future.
[ ] Continue to monitor for signs of infection
[ ] Podiatry follow up for ingrown nail

#CODE: Full (presumed) 
#CONTACT: ___ (Mom) ___, patient cell ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cetirizine 10 mg PO DAILY 

 
Discharge Medications:
1.  Cetirizine 10 mg PO DAILY  
2.Outpatient Lab Work
Please Obtain a CBC w/Diff
ICD-10 Diagnosis: D72.___ Leukopenia
Please Fax Results to:
___, MD
___
Fax: ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
=======
Leukopenia

Secondary
=========
Allergy to sulfa drugs

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  
Dear Ms. ___, 

It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You had a rash, low blood pressure and were found to have a 
low white blood cell count.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You were given IV fluids with improvement in your blood 
pressure.

- Your blood tests were repeated and your white blood cell count 
remained low but stable. The hematology team looked at your 
blood smear and determined that there were no abnormal cells 
indicative of cancer. Overall we believe that your blood counts 
were low because of your treatment with Bactrim (trimethoprim 
and sulfamethoxazole).

- We offered to have you stay another night for monitoring of 
your blood counts because of the low neutrophil coutn and risk 
for serious bacterial infections. You were aware of the risks of 
leaving but decided to leave with your mom to stay in a hotel 
with a plan to re-check your blood counts through your school's 
health center or urgent care in 2 days. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- You should not take Bactrim (trimethoprim and 
sulfamethoxazole) or other sulfa-containing drugs in the future.

- You should avoid exposure to crowds and wear a mask when going 
outside until your blood counts return to normal. You should 
also practice good hand hygiene to avoid infection. You should 
try to stay in the hotel through the weekend to prevent 
exposures. 

- You should have your blood counts checked on ___. 
If you have fevers, chills, increasing drainage from your toe, 
worsening rash, or any other signs of infection you should go to 
the ED for evaluation immediately!!

We wish you the best!  

Sincerely,  
Your ___ Team 

 
Followup Instructions:
___